US06114527
Process for the Preparation of 4-hydroxypyrimidine-5-carboxamide
At room temperature, malonodiamide (10.75 g, 0.10 mol) was added to a sodium methoxide solution (55.88 g, 0.30 mol., 29% in methanol.), and the mixture was diluted with tetrahydrofuran. At room temperature, the Gold's reagent prepared as in Example 1 (18.0 g, 0.11 mol) was added, and argon was passed through for 24 hours in order to drive off the dimethylamine liberated. The pH was then adjusted to 7.4 using an aqueous hydrochloric acid solution, and most of the tetrahydrofuran was removed on a rotary evaporator. The resulting suspension was adjusted to pH=5.5 using eq. HCl and heated to reflux temperature. Water was then added again in order to bring everything into solution, then activated carbon was added and the mixture was stirred under reflux for a further 15 min. After slow cooling to room temperature, pale yellow crystals precipitated out, which, after filtration, were dried under reduced pressure at 40° C. to give the title product in a yield of 5.58 g (80%)

reactant | malonodiamide | 0.10 mol, 10.75 g | C(C(=O)N)C(=O)N | C3H6N2O2
reactant | sodium methoxide | 0.30 mol, 55.88 g | C[O-].[Na+]
reactant | Gold's reagent | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-hydroxypyrimidine-5-carboxamide | OC1=NC=NC=C1C(=O)N | C5H5N3O2
